US07553969B1
(5) Synthesis of 2-((2-butoxycarbonylamino-3-(4-fluorophenyl)propionyl)-N-methylamino)-3-methylbutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(2-pyridylcarbamoyl)ethylamide
To a solution of 3-methyl-2-methylaminobutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(2-pyridylcarbamoyl)ethylamide (1.25 g, 2.93 mmol), Boc-Phe(4-F)-OH (1.08 g, 3.81 mmol) and CMPI (973 mg, 3.81 mmol) in THF 19 ml, TEA (0.94 ml, 6.74 mmol) was added under cooling with ice and stirred for 4 hours under cooling with ice. The reaction mixture was mixed with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: ethyl acetate:n-hexane=1:1), giving the titled compound (1.72 g, 85%).

reactant | 3-methyl-2-methylaminobutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(2-pyridylcarbamoyl)ethylamide | 2.93 mmol, 1.25 g | C(C)(C)(C)C=1C=C(C=CC1O)CC(C(NC1=NC=CC=C1)=O)NC(C(C(C)C)NC)=O | C24H34N4O3
reactant | Boc-Phe(4-F)-OH | 3.81 mmol, 1.08 g | N([C@@H](CC1=CC=C(C=C1)F)C(=O)O)C(=O)OC(C)(C)C | C14H18FNO4
reactant | water | O | H2O
reactant | THF | 19 ml | C1CCOC1 | C4H8O
product | 2-((2-butoxycarbonylamino-3-(4-fluorophenyl)propionyl)-N-methylamino)-3-methylbutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(2-pyridylcarbamoyl)ethylamide | 1.72 g, 85% | C(C)(C)(C)C=1C=C(C=CC1O)CC(C(NC1=NC=CC=C1)=O)NC(C(C(C)C)N(C)C(C(CC1=CC=C(C=C1)F)NC(=O)OCCCC)=O)=O | C38H50FN5O6
